US04006137
1,3 -Dimethyl-2-[2-(1-methyl-1H-pyrrol-2-yl)ethenyl]-1H-imidazolium iodide
A mixture of 12.0 g of 1,2,3-trimethyl-1H-imidazolium iodide, 2g of potassium hydroxide and 12.0 g of N-methylpyrrole-2-carboxaldehyde in 60 ml of absolute ethanol is refluxed for 15 minutes during which time a precipitate is formed. The mixture is cooled and 10 ml of water is added. The solid is filtered off and crystallized from absolute ethanol to yield 12.3 g of the title compound, melting point 289°-291° C.

reactant | 1,2,3-trimethyl-1H-imidazolium iodide | 12.0 g | [I-].C[NH+]1C(N(C=C1)C)C
reactant | potassium hydroxide | [OH-].[K+]
reactant | N-methylpyrrole-2-carboxaldehyde | 12.0 g | CN1C(=CC=C1)C=O | C6H7NO
reactant | water | 10 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1,3 -Dimethyl-2-[2-(1-methyl-1H-pyrrol-2-yl)ethenyl]-1H-imidazolium iodide | 12.3 g | [I-].C[NH+]1C(N(C=C1)C)C=CC=1N(C=CC1)C | InChI=1S/C12H17N3.HI/c1-13-8-4-5-11(13)6-7-12-14(2)9-10-15(12)3;/h4-10,12H,1-3H3;1H
